US09108939B2
2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (9.61 mmol, 4.63 mL, 3.24 g), 3-(4-nitrophenoxy)pyrrolidine (9.61 mmol, 2 g) and potassium carbonate (19.21 mmol, 2.65 g) were combined and stirred at room temperature in acetonitrile (50 mL) for 1 hour. The reaction mixture was filtered and concentrated under vacuum. The residue was purified by silica column chromatography (eluent: dichloromethane to 15% methanol in dichloromethane) and SCX chromatography to afford the intermediate 1,1,1,3,3,3-hexafluoro-2-(4-((3-(4-nitrophenoxy)pyrrolidin-1-yl)methyl)phenyl)propan-2-ol (750 mg).

reactant | 2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 9.61 mmol, 4.63 mL, 3.24 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | 3-(4-nitrophenoxy)pyrrolidine | 9.61 mmol, 2 g | [N+](=O)([O-])C1=CC=C(OC2CNCC2)C=C1 | C10H12N2O3
reactant | potassium carbonate | 19.21 mmol, 2.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1,1,1,3,3,3-hexafluoro-2-(4-((3-(4-nitrophenoxy)pyrrolidin-1-yl)methyl)phenyl)propan-2-ol | 750 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C20H18F6N2O4
